US04311803
A series of 75/25 butadiene/styrene random copolymers were prepared according to Polymerization Recipe III by a continuous polymerization process using a reactor train consisting of a 3-pint, round bottomed glass reactor with stirring means, a 20 feet by 1/2 inch copper tube, and inlet for the 1,3-butadiene coupling adjuvant, a 65-ml. Kenics Static Mixer, a silicon tetrachloride inlet, a gear pump to move the polymer cement and to provide some mixing of the silicon tetrachloride coupling agent with the polymer cement, and a 425-ml Kenics Static Mixer.

reactant | 1,3-butadiene | C=CC=C | C4H6
reactant | silicon tetrachloride | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
catalyst | copper | [Cu] | Cu
product | butadiene styrene | C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H6/c1-2-8-6-4-3-5-7-8;1-3-4-2/h2-7H,1H2;3-4H,1-2H2
